US03989841
7-Methoxyfluorene-2-acetic acid
A solution of 20mg. of methyl 7 -methoxyfluorene-2-acetic acid in 7ml. of ethanol containing 0.5ml. of 50% aqueous potassium hydroxide solution is refluxed overnight. The mixture is acidified and the solid collected by filtration. Crystallization from chloroform-isopropyl ether gives 8mg. of the title compound, mp 200°-202°. The analytical sample is prepared by tube to tube evaporative distillation, mp 203°-205°; λKBr 5.93μ.

reactant | methyl 7 -methoxyfluorene-2-acetic acid | CC1=C(C=CC=2C3=CC=C(C=C3CC12)OC)CC(=O)O | C17H16O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 0.5ml | C(C)O | C2H6O
product | 7-Methoxyfluorene-2-acetic acid | COC1=CC=C2C=3C=CC(=CC3CC2=C1)CC(=O)O | C16H14O3
